*****************************************************************
* NXP BUK9Y3R0-40E
*
* Polarity N-Channel
* Ratings 40V/3.000000E-003OHMS/100A
*
* Date Created Tue Feb 05 08:34:27 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y3R0-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00143469064789026 TC=0.00460081397743761,1.92729146274541E-05
RBD 9 4 0.000800205422898771 TC=0.00460081397743761,1.92729146274541E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 3.61608653015911e-09
RG 1 2 2.71663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2450.27
+ -16	2449.21
+ -10	2444.81
+ -5	2430.52
+ -4	2420.41
+ -3	2390.69
+ -2	3324.08
+ -1	2212.38
+ -0.5	1555.91
+ -0.2	1205.53
+ -0.1	1020.34
+ 0	1003.05
+ 0.1	987.982
+ 0.2	796.816
+ 0.5	665.349
+ 1	568.22
+ 2	472.775
+ 3	420.159
+ 4	383.252
+ 5	355.191
+ 6	334.861
+ 8	309.427
+ 10	294.814
+ 12	285.106
+ 15	274.639
+ 20	261.409
+ 25	250.818
+ 30	242.286
+ 35	233.754



.MODEL MINT NMOS(Vto=2.20092497847209 Kp=4.674297e+002 Nfs=450000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=2.82690908666588e-12
+ N=1 M=0.58 VJ=0.65 Fc=0.5 Cjo=2.533611e-09 Tt=2.952536e-08)

.ENDS

